US05962557
Preparation of 6,7-dichloro- 1,4,9,10-tetrahydroxyanthracene [6,7-Dichloroleucoquinizarin](Compound 1 of Table 4):
Ten grams (32.35 mmol) of 6,7-dichloro- 1,4-dihydroxyanthraquinone were pulverized with enough NH4OH to make a paste. This was transferred to a 500 mL round bottom (RB) flask, using additional NH4OH to make the reaction mixture 0.13-0.16 M. While stirring, 6.72 grams (38.60 mmol) sodium hydrosulfite were added portionwise over 1.5 hours. Immediately after addition, the mixture was heated slowly to 55° C. on a steam bath, then heated at 55° C. for about 1.5 hours. After cooling to room temperature, the mixture was filtered, washed twice with water, and pulled dry on the funnel for a brief period. The product was dried overnight in a vacuum oven at 55-65° C. FDMS showed a mixture of starting material and product. This mixture was carried on to compound 2 of Table 1.

reactant | 6,7-dichloro- 1,4-dihydroxyanthraquinone | 32.35 mmol, Ten grams | ClC=1C=C2C(C=3C(=CC=C(C3C(C2=CC1Cl)=O)O)O)=O | C14H6Cl2O4
reactant | NH4OH | [NH4+].[OH-]
reactant | sodium hydrosulfite | 38.60 mmol, 6.72 grams | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | 6,7-dichloro- 1,4,9,10-tetrahydroxyanthracene | ClC=1C=C2C(=C3C(=CC=C(C3=C(C2=CC1Cl)O)O)O)O | C14H8Cl2O4
